US07232827B2
1.2 (6,7-Dihydro-5H-cyclopentapyrazin-6-yl)-methanol
To a solution of 4.5 g (23.4 mmol) of 6,7-dihydro-5H-cyclopentapyrazine-6 carboxylic acid ethyl ester (prepared by analogy to the method described in WO99/02517) in 90 ml of anhydrous tetrahydrofuran under argon was added 1.33 g (35.1 mmol) of lithium aluminium hydride. The resulting mixture was stirred at room temperature for 2 h. The reaction mixture was diluted with 100 ml of diethylether at 0° C. and treated with excess of a saturated aqueous solution of sodium sulfate. Further solid sodium sulfate was added and the organic phase was filtered to remove salts. The solvent was evaporated to dryness to give 3.3 g (94%) of product as an oil.

reactant | 6,7-dihydro-5H-cyclopentapyrazine-6 carboxylic acid ethyl ester | 23.4 mmol, 4.5 g | C(C)OC(=O)C1CC2=C(N=CC=N2)C1 | C10H12N2O2
reactant | lithium aluminium hydride | 35.1 mmol, 1.33 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | diethylether | 100 ml | C(C)OCC | C4H10O
product | (6,7-Dihydro-5H-cyclopentapyrazin-6-yl)-methanol | 3.3 g, 94% | N1=CC=NC2=C1CC(C2)CO | C8H10N2O
